US06043358
(±)-7-(tert-Butoxycarbonyl)-7-aza-bicyclo-[4.1.0]-cycloheptane (0.5 g, 2.68 mmol) was dissolved in 2 mL dimethylformamide and β-mercaptopropionic acid (0.318 g, 3 mmol). After the addition of cesium carbonate (1.95 g, 6 mmol), the mixture was stirred at 60° C. until the TLC indicated the full consumption of starting material (appro. 4 hrs). The reaction mixture was diluted with water, the pH was adjusted to 4 (with 2.4 M HCl) and finally extracted with methylene chloride. The solvent layer was washed with brine, dried and evaporated to give the crude (±)-trans-2-(tert-butocycarbonylamino)-1-[2-(carboxy)ethylthio]-cyclohexane, which was not purified but taken to the next stage. The crude from the above was dissolved in 10 ml ethyl acetate saturated with hydrogen chloride and stir at room temperature. The white precipitate that resulted was filtered and dried under vacuo yielding 0.636 g of (±)-trans-2-amino-1-[2-(carboxy)ethylthio]-cyclohexane.

reactant | cycloheptane | 2.68 mmol, 0.5 g | C1CCCCCC1 | C7H14
reactant | β-mercaptopropionic acid | 3 mmol, 0.318 g | SCCC(=O)O | C3H6O2S
reactant | cesium carbonate | 6 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (±)-trans-2-amino-1-[2-(carboxy)ethylthio]-cyclohexane | 0.636 g | N[C@H]1[C@@H](CCCC1)SCCC(=O)O | C9H17NO2S
